US09303033B2
To 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (4.0 g, 16.87 mmol) in dimethylformamide was added sodium thiomethoxide (3.54 g, 50.5 mmol) and the reaction mixture was heated to 80° C. for 2 hrs. Cooled the reaction mixture, added water, stirred for 15 minutes and filtered white precipitate, dried to yield 7-(cyclopropylamino)-5-(methylthio)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (3.60 g, 86% yield). LCMS (M+1=249)

reactant | 5-chloro-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 16.87 mmol, 4.0 g | ClC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C10H9ClN4O
reactant | sodium thiomethoxide | 50.5 mmol, 3.54 g | C[S-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(cyclopropylamino)-5-(methylthio)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 3.60 g, 86% yield | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)SC | C11H12N4OS
